US06358972B1
A mixture of 5-bromo-3-(1-methylpiperidin-4-yl)-1-(triisopropylsilyl)-indole (0.600 g, 1.34 mmol), phenylboronic acid (0.171 g, 1.40 mmol), tetrakis(triphenylphosphine)palladium(0) (0.077 g, 0.067 mmol), and 2M aqueous sodium carbonate solution (2 mL) in toluene (15 mL) was heated at reflux overnight. The solution was allowed to cool to room temperature, diluted with ethyl acetate and brine, the organic phase was separated, dried over sodium sulfate, filtered and concentrated in vacuo. The residue was purified by silica gel (flash) chromatography (dichloromethane:methanol:aqueous ammonium hydroxide 4.5:0.5:0.2) to give 0.128 g of 5-phenyl-3-(1-methylpiperidin-4-yl)-1-(triisopropylsilyl)-indole (22%) as an oil, which was desilylated by dissolving in 1 mL of tetrahydrofuran and treating with tetrabutylammonium fluoride (1M solution in tetrahydrofuran, 4 mL) with stirring at room temperature for 3 hours. The mixture was concentrated in vacuuo, and the resulting oil was purified by silica gel (flash) chromatography (eluting with 500 mL dichloromethane, followed by dichloromethane:methanol:aqueous ammonium hydroxide 4.5:0.5:0.1) to give the title compound (0.045 g) as an amorphous white solid. FDMS m/e=289 (M+). EA calculated for C20H22N2: C, 82.72; H, 7.64; N, 9.65. Found: C, 82.19; H, 7.37; N, 9.75.

reactant | 5-bromo-3-(1-methylpiperidin-4-yl)-1-(triisopropylsilyl)-indole | 1.34 mmol, 0.600 g | BrC=1C=C2C(=CN(C2=CC1)[Si](C(C)C)(C(C)C)C(C)C)C1CCN(CC1)C | C23H37BrN2Si
reactant | phenylboronic acid | 1.40 mmol, 0.171 g | C1(=CC=CC=C1)B(O)O | C6H7BO2
reactant | sodium carbonate | 2M, 2 mL | C([O-])([O-])=O.[Na+].[Na+]
solvent | toluene | 15 mL | C1(=CC=CC=C1)C | C7H8
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | brine | [Cl-].[Na+].O
catalyst | tetrakis(triphenylphosphine)palladium(0) | 0.067 mmol, 0.077 g | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | 5-phenyl-3-(1-methylpiperidin-4-yl)-1-(triisopropylsilyl)-indole | 0.128 g, 22% | C1(=CC=CC=C1)C=1C=C2C(=CN(C2=CC1)[Si](C(C)C)(C(C)C)C(C)C)C1CCN(CC1)C | C29H42N2Si
